US04307094
27.47 g (0.125 mol) of 1-ethoxycarbonyl-4-methoxycarbonylmethyl-semicarbazide were dissolved in 95 ml (0.38 mol) of 4-M potassium hydroxide solution and heated on a steam-bath for 1.5 hours. The resulting solution was cooled to room temperature, acidified to pH 1 with concentrated hydrochloric acid and evaporated in vacuo to give a colourless solid. This solid was extracted with three 90 ml portions of boiling methanol. The extracts were filtered, combined and added to 400 ml of methanolic hydrogen chloride. The mixture was left to stand at room temperature overnight and then evaporated in vacuo to give a colourless solid. This solid was recrystallized from methanol to give 7.50 g (35%) of methyl 3,5-dioxo-1,2,4-triazolidine-4-acetate of melting point 215°-218° C.

reactant | 1-ethoxycarbonyl-4-methoxycarbonylmethyl-semicarbazide | 0.125 mol, 27.47 g | C(C)OC(=O)NNC(=O)NCC(=O)OC | C7H13N3O5
reactant | hydrochloric acid | Cl | ClH
solvent | potassium hydroxide | [OH-].[K+]
product | methyl 3,5-dioxo-1,2,4-triazolidine-4-acetate | 7.50 g, 35% | O=C1NNC(N1CC(=O)OC)=O | C5H7N3O4
